US05332757
Using an analogous procedure to that described in Example 66, 4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenoxy}acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenoxy}acetophenone oxime in 42% yield, m.p. 126°-127° C.

reactant | 4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenoxy}acetophenone | FC=1C=C(C=C(OC2=CC=C(C=C2)C(C)=O)C1)C1(C(OCC1)C)OC | C20H21FO4
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-{5-fluoro-3-[(2RS,3SR)-3-methoxy-2-methyltetrahydrofuran-3-yl]phenoxy}acetophenone oxime | 42% yield | FC=1C=C(C=C(OC2=CC=C(C=C2)/C(/C)=N/O)C1)C1(C(OCC1)C)OC | C20H22FNO4
